US06054414
10. 8-Methyl-4-ethoxy-1,1-dioxothiochroman-7-carboxylic acid
8.4 g (0.033 mol) of 4-ethoxy-8-methylthiochroman-7-carboxylic acid are initially introduced in 60 ml of acetic acid. A spatula tipful of sodium tungstate is added. 7.9 g (0.07 mol) is of 30% strength hydrogen peroxide solution are slowly added dropwise at 50° C. and the reaction mixture is subsequently stirred for 2 hours. It is then poured into water and the aqueous phase is extracted with ethyl acetate. The organic phase is washed with bisulfite solution, then dried and concentrated.

reactant | 4-ethoxy-8-methylthiochroman-7-carboxylic acid | 0.033 mol, 8.4 g | C(C)OC1CCSC2=C(C(=CC=C12)C(=O)O)C | C13H16O3S
reactant | hydrogen peroxide | OO | H2O2
reactant | water | O | H2O
reactant | acetic acid | 60 ml | C(C)(=O)O | C2H4O2
catalyst | sodium tungstate | [O-][W](=O)(=O)[O-].[Na+].[Na+]
product | 8-Methyl-4-ethoxy-1,1-dioxothiochroman-7-carboxylic acid | CC=1C(=CC=C2C(CCS(C12)(=O)=O)OCC)C(=O)O | C13H16O5S
